US07247628B2
Preparation of 1-(4-Chloro-phenyl)-2-(2,4-dichloro-phenyl)-4-hydroxy-4,5-dihydro-1H-imidazole-4-carboxylic acid ethyl ester (I-7b)
A mixture of 2,4-dichloro-N-(4-chloro-phenyl)-benzamidine I-7a (34 g, 113.5 mmol) and sodium bicarbonate (19.1 g, 227 mmol) in 2-propanol (600 ml) was treated with 3-bromo-2-oxo-propionic acid ethyl ester (20 ml, 158.9 mmol). The reaction mixture was heated to 85° C. overnight, and the solvent was removed in vacuo. The residue was partitioned between methylene chloride and water, and the layers were separated. The organic phase was dried over anhydrous magnesium sulfate and concentrated. The residue was triturated with ether/hexanes (1:3), and the yellow solid, 1-(4-chloro-phenyl)-2-(2,4-dichloro-phenyl)-4-hydroxy-4,5-dihydro-1H-imidazole-4-carboxylic acid ethyl ester I-7b (45 g, 96%), was collected by filtration.

reactant | 2,4-dichloro-N-(4-chloro-phenyl)-benzamidine | ClC1=C(C(=N)NC2=CC=C(C=C2)Cl)C=CC(=C1)Cl | C13H9Cl3N2
reactant | sodium bicarbonate | 227 mmol, 19.1 g | C([O-])(O)=O.[Na+]
reactant | 3-bromo-2-oxo-propionic acid ethyl ester | 158.9 mmol, 20 ml | C(C)OC(C(CBr)=O)=O | C5H7BrO3
solvent | 2-propanol | 600 ml | CC(C)O | C3H8O
product | 1-(4-Chloro-phenyl)-2-(2,4-dichloro-phenyl)-4-hydroxy-4,5-dihydro-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(N=C(N(C1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)O | C18H15Cl3N2O3
